US07683060B2
Step 2. (2S)-2-[(4-{3-[1-(1,3-Benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoic acid
A mixture of tert-butyl (2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]-triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoate (33.0 mg, 0.056 mmol) in trifluoroacetic acid (1.0 mL) and methylene chloride (1.0 mL) was stirred at RT for 2 h. The volatiles were evaporated under reduced pressure to afford the desired product which was directly used in the next step without further purification. Analytical LCMS: (M+H)+=528.0.

reactant | tert-butyl (2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]-triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoate | 0.056 mmol, 33.0 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)N[C@H](C(=O)OC(C)(C)C)C(C)(C)C)C=C1 | C31H33N7O3S
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-[(4-{3-[1-(1,3-Benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoic acid | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)N[C@H](C(=O)O)C(C)(C)C)C=C1 | C27H25N7O3S
